US08309542B2
(a) tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-ethylcarbamoyloxymethyl-pyrrolidine-1-carboxylate
120.0 mg (0.3 mmol) tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-hydroxymethyl-pyrrolidine-1-carboxylate are refluxed in 5 ml of toluene with 30 μl (0.38 mmol) ethylisocyanate for three hours. Then 100 μl ethyl isocyanate are added three times at three hour intervals and the mixture is refluxed for a further 16 hours. Then the mixture is cooled, evaporated to dryness and purified by flash chromatography on silica gel (eluant DCM/methanol 100:3).

reactant | tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-hydroxymethyl-pyrrolidine-1-carboxylate | 0.3 mmol, 120.0 mg | ClC1=CC=C(S1)C(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C15H21ClN2O4S
reactant | ethylisocyanate | 0.38 mmol, 30 μl | C(C)N=C=O | C3H5NO
reactant | ethyl isocyanate | 100 μl | C(C)N=C=O | C3H5NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | tert. Butyl (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-2-ethylcarbamoyloxymethyl-pyrrolidine-1-carboxylate | ClC1=CC=C(S1)C(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COC(NCC)=O | C18H26ClN3O5S
